US06927228B2
(b) N-[4′-(2,4-Dioxothiazolidin-5-ylidenemethyl)-biphenyl-3-yl]-2-phenylacetamide
In a manner similar to that of Example 1(d), by reacting 1.2 g (2.3 mmol) of 5-(3′-aminobiphenyl-4-ylmethylene)thiazolidine-2,4-dione with 430 μl (3 mmol) of phenylacetyl chloride, 920 mg (97%) of the expected product are obtained.

reactant | 5-(3′-aminobiphenyl-4-ylmethylene)thiazolidine-2,4-dione | 2.3 mmol, 1.2 g | NC=1C=C(C=CC1)C1=CC=C(C=C1)C=C1C(NC(S1)=O)=O | C16H12N2O2S
reactant | phenylacetyl chloride | 3 mmol, 430 μl | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
product | N-[4′-(2,4-Dioxothiazolidin-5-ylidenemethyl)-biphenyl-3-yl]-2-phenylacetamide | 920 mg, 97% | O=C1SC(C(N1)=O)=CC1=CC=C(C=C1)C1=CC(=CC=C1)NC(CC1=CC=CC=C1)=O | C24H18N2O3S
